US06794401B2
Preparation 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzilidene]thiazolidin-2,4-dione
A solution of 5-[4-(4-(2-t-butoxycarbonylamino-2-methoxycarbonylethyl)phenoxy)benzilidene]thiazolidin-2,4-dione (2 g, 4.0 mmol) in DCM (100 ml) at 0° C. was bubbled with HCl gas. After stirring for 1 hour, the yellow precipitate was filtered and 1.7 g (3.9 mmol) of HCl-Tyr (C6H4-CH=TDZ)-OMe was collected with 97.5% yield, mp: 187-190° C. The HPLC purity of product was 94.5%. Compound 1.

reactant | 5-[4-(4-(2-t-butoxycarbonylamino-2-methoxycarbonylethyl)phenoxy)benzilidene]thiazolidin-2,4-dione | 4.0 mmol, 2 g | C(C)(C)(C)OC(=O)NC(CC1=CC=C(OC2=CC=C(C=C3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC | C25H26N2O7S
reactant | HCl | Cl | ClH
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzilidene]thiazolidin-2,4-dione | 97.5% yield | NC(CC1=CC=C(OC2=CC=C(C=C3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC | C20H18N2O5S
